US04658037
N-Benzoyl-3-(2-furoyl)-2-oxindole-1-carboxamide
A mixture of 909 mg (4.0 mmole) of 3-(2-furoyl)-2-oxindole and 706 mg (4.8 mmole) of benzoyl isocyanate in 25 ml of toluene was heated to reflux and then it was heated at reflux temperature for 7 hours. The mixture was allowed to stand at room temperature overnight and then the precipitate which had formed was removed by filtration, giving 1.3 g of crude product. The crude product was recrystallized from ca 30 ml of acetic acid, giving 920 mg of the title compound, mp 184° C. (dec).

reactant | 3-(2-furoyl)-2-oxindole | 4.0 mmole, 909 mg | O1C(=CC=C1)C(=O)C1C(NC2=CC=CC=C12)=O | C13H9NO3
reactant | benzoyl isocyanate | 4.8 mmole, 706 mg | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-Benzoyl-3-(2-furoyl)-2-oxindole-1-carboxamide | 920 mg | C(C1=CC=CC=C1)(=O)NC(=O)N1C(C(C2=CC=CC=C12)C(=O)C=1OC=CC1)=O | C21H14N2O5
